US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(naphthalen-2-yl)-2-methyl-1-propanol
4-Bromo-1H-imidazole (1.95 g) was dissolved in THF (30 ml), and the solution was cooled to −78° C. To the solution was added a solution of t-butyllithium in pentane (1.7 M; 20 ml). The mixture was stirred at 0° C. for 1.5 h. The mixture was again cooled to −78° C., and a solution of 2-formylnaphthalene (3.32 g) in THF (20 ml) was added. After the temperature was elevated from −78° C. to room temperature, the mixture was stirred at room temperature for 16 h. To the mixture was added an aqueous solution of ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was dried and concentrated. The residue was purified by silica gel column chromatography,(eluent, dichloromethane:methanol=10:1). Recrystallization from dichloromethane-methanol gave the titled compound (1.00 g) as a colorless solid.

reactant | 4-Bromo-1H-imidazole | 1.95 g | BrC=1N=CNC1 | C3H3BrN2
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | 2-formylnaphthalene | 3.32 g | C(=O)C1=CC2=CC=CC=C2C=C1 | C11H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | pentane | 1.7 M, 20 ml | CCCCC | C5H12
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-1-(naphthalen-2-yl)-2-methyl-1-propanol | 1.00 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=CC=C2C=C1 | C17H18N2O
